US05597832
2d. trans-4-(2-amino-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalene-1-yl)-3-thiophenecarboxylic acid, N,N-diethylamide
To a solution of 554 mg of trans-4-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-nitronaphthalene-1-yl) -5-trimethylsilyl-3-thiophenecarboxylic acid, N,N-diethylamide, from step 2c above, in 8 mL of ethanol and 3 mL of 6 N HCl was added 700 mg of Zn dust, and the mixture was stirred for 15 min. The mixture was diluted with 20 mL of methylene chloride, then filtered. The organic layer of the flitrate was separated. The aqueous layer was adjusted to pH 10 and extracted with methylene chloride. The extract was dried over Na2SO4, filtered and concentrated. The residue was dissolved in 7 mL of methanol, 3 mL of 6N HCl was added, and the solution was stirred for 4 hours. The methanol was evaporated off, and the residue was dissolved in 6 mL of water, which was then extracted with ether. The aqueous layer was adjusted to pH 10 and extracted with ethyl acetate. Removal of the solvent gave 256 mg of the title product. MS 389 (M+H)+. NMR (CDCl3) δ:7.24 (d, 1 H, J=6 Hz), 6.93 (d, 1 H, J=6 Hz), 6.58 (s, 1H), 6.43 (s, 1H), 4.23 (d, 1H, J=10 Hz), 3.85 (s, 3H), 3.67 (s, 3H), 3.64 (m, 1H), 3.50-3.30 (m, 4H), 3.0-2.76 (m, 2H), 2.32-2.22 (m, 1H), 1.90-1.80 (m, 1H), 1.26-1.12 (m, 6H).

reactant | trans-4-(1,2,3,4-tetrahydro-6,7-dimethoxy-2-nitronaphthalene-1-yl) -5-trimethylsilyl-3-thiophenecarboxylic acid, N,N-diethylamide | 554 mg | C(C)N(C(=O)C1=CSC(=C1[C@H]1[C@@H](CCC2=CC(=C(C=C12)OC)OC)[N+](=O)[O-])[Si](C)(C)C)CC | C24H34N2O5SSi
reactant | HCl | 6 N, 3 mL | Cl | ClH
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Zn | 700 mg | [Zn] | Zn
product | trans-4-(2-amino-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalene-1-yl)-3-thiophenecarboxylic acid, N,N-diethylamide | 256 mg | C(C)N(C(=O)C1=CSC=C1[C@H]1[C@@H](CCC2=CC(=C(C=C12)OC)OC)N)CC | C21H28N2O3S
